US06200933B1
Production of 4-methoxy-6-[2-chloro-6-(trifluoromethyl) phenoxy] picolinic acid (Compound No. I-33)
2-cyano-4-methoxy-6-[2-chloro-6-(trifluoromethyl) phenoxy] pyridine (2.88 g, 0.0088 mol) was suspended in about 20 ml of concentrated hydrochloric acid and about 10 ml of acetic acid. The obtained suspension was stirred at about 100° C. for about 4 hours. After being allowed to stand for cooling, the obtained reaction solution was mixed with water, and then distributed in chloroform-water. The obtained solution was washed with saturated brine, dried with anhydrous sodium sulfate and then concentrated, thereby obtaining an aimed product.

reactant | 2-cyano-4-methoxy-6-[2-chloro-6-(trifluoromethyl) phenoxy] pyridine | 0.0088 mol, 2.88 g | C(#N)C1=NC(=CC(=C1)OC)OC1=C(C=CC=C1C(F)(F)F)Cl | C14H8ClF3N2O2
reactant | water | O | H2O
reactant | acetic acid | about 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | about 20 ml | Cl | ClH
solvent | chloroform water | C(Cl)(Cl)Cl.O
product | 4-methoxy-6-[2-chloro-6-(trifluoromethyl) phenoxy] picolinic acid | COC1=CC(=NC(=C1)OC1=C(C=CC=C1C(F)(F)F)Cl)C(=O)O | C14H9ClF3NO4
